US09340549B2
A resealable tube was charged with 2-(6-fluoropyridin-3-yl)pyrimidine (0.150 g, 0.856 mmol), dioxane (3.0 mL), and water (1.00 mL). Concentrated hydrochloric acid (37%)(0.25 mL) was added, the system was flushed with argon, the tube was sealed, and the reaction mixture stirred at 100° C. for 1.5 hours. The reaction mixture was then partitioned between EtOAc and saturated aqueous NaHCO3 solution. The aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford 5-(pyrimidin-2-yl)pyridin-2(1H)-one (0.079 g, 0.456 mmol, 53% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.45 (dd, J=9.59, 0.78 Hz, 1H), 7.33 (t, J=4.89 Hz, 1H), 8.32 (td, J=10.07, 2.35 Hz, 2H), 8.79 (d, J=4.89 Hz, 2H), 11.96 (br. s., 1H). m/z (ESI) 174 (M+H)+.

reactant | 2-(6-fluoropyridin-3-yl)pyrimidine | 0.856 mmol, 0.150 g | FC1=CC=C(C=N1)C1=NC=CC=N1 | C9H6FN3
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 0.25 mL | Cl | ClH
solvent | water | 1.00 mL | O | H2O
product | 5-(pyrimidin-2-yl)pyridin-2(1H)-one | 0.456 mmol, 0.079 g, 53% yield | N1=C(N=CC=C1)C=1C=CC(NC1)=O | C9H7N3O
